US06358980B1
3-{[4-(2-Butynyloxy)phenyl]sulfonyl}-3-piperidinecarboxylate hydrogen chloride (2.97 g, 8.0 mmol), ethyl iodide (1.28 g, 8 mmol) and dry powdered potassium carbonate (3.8 g) in dry acetone (60 ml) was heated to reflux for 18 hours. The mixture was allowed to cool and the potassium salts were filtered and concentrated. The residue was extracted with chloroform and washed with H2O, dried over sodium sulfate and concentrated to afford ethyl 3-{[4-(2-butynyloxy)phenyl]sulfonyl}-1-ethyl-3-piperidinecarboxylate. This product was used without further purification. Amber gum, yield 3.47 g (99%); MS (ES): m/z 394 (M+H)+.

reactant | 3-{[4-(2-Butynyloxy)phenyl]sulfonyl}-3-piperidinecarboxylate hydrogen chloride | 8.0 mmol, 2.97 g | Cl.C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CNCCC1)C(=O)O
reactant | ethyl iodide | 8 mmol, 1.28 g | C(C)I | C2H5I
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 60 ml | CC(=O)C | C3H6O
product | ethyl 3-{[4-(2-butynyloxy)phenyl]sulfonyl}-1-ethyl-3-piperidinecarboxylate | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CN(CCC1)CC)C(=O)OCC | C20H27NO5S
